US05731432
To a solution of 1.0 mmol 2-isopropylthiophenol and 2.2 mmol TMEDA in 2 mL cyclohexane was added 2.2 mmol n-BuLi. Then after stirring 24 h it was added to solid CO2 and stirred for 16 h when extraction and chromatography provided 2-mercapto-3-isopropylbenzoic acid. The methyl ester of this was treated as in example 3 to provide the title compound.

reactant | 2-isopropylthiophenol | 1.0 mmol | C(C)(C)C1=C(C=CC=C1)S | C9H12S
reactant | TMEDA | 2.2 mmol | CN(C)CCN(C)C | C6H16N2
reactant | n-BuLi | 2.2 mmol | [Li]CCCC
reactant | CO2 | C(=O)=O | CO2
solvent | cyclohexane | 2 mL | C1CCCCC1 | C6H12
product | 2-mercapto-3-isopropylbenzoic acid | SC1=C(C(=O)O)C=CC=C1C(C)C | C10H12O2S
